Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Benadryl / Dilaudid / Tylenol
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMH CAD s/p CABG in ___, ___ with LVEF 25%, atrial 
fibrillation, and MGUS/smoldering myeloma, who presented with 
dyspnea and was found to have a PE.

She had previously been on warfarin for atrial fibrillation. In 
___ she had a severe fall, resulting in multiple fractures 
(wrist, neck, pelvis, and facial fractures). She required 
several transfusions and her warfarin was stopped.

She also had a recent hospitalization for heart failure. At that 
time she was told her LVEF was 25%, and she was diuresed with 
20lb of fluid removed. She was not sent home on any diuretics. 
Her daughter reports that there was a thought that she may have 
been overdiuresed. Her weight at time of discharge was 105lb. 
Most recently her weight had been around 110lb.

She has been having several days of malaise, vague sense of 
feeling weak and unwell. She had dyspnea on exertion that 
progressed to dyspnea at rest. She is only able to walk 60ft 
before feeling short of breath. She denies any orthopnea. She 
sleeps on two pillows, which has not recently changed. She 
reports that her breathing improves after lying down.

She denies chest pain, headache, presyncope, visual changes, 
paresthesias, or weakness.

At ___ she was given zosyn, 325 ASA, and started on a 
heparin drip.
 
In the ED, initial vitals: 97.5 118 100/56 18 96% RA  

Labs were notable for: K 6.8 (repeat whole blood 5.1), HCO3 15, 
BNP 44,309, troponin < 0.01. Bedside US revealed acute on 
chronic right heart strain
 
On transfer, vitals were: 97.7 122 90/69 22 98% RA  

On arrival to the MICU, she denied any shortness of breath or 
chest pain. 

Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.
 
Past Medical History:
-"Smoldering" multiple myeloma vs ?MGUS - never on treatment  
 - Fractures as per HPI  
 - persistent AF - DCCV ___ years with persistent AF  
- CAD s/p CABG and mitral valve repair ___ years prior (___)  
 
 
Social History:
___
Family History:
Negative for any history of hypercoagulability 
 
Physical Exam:
==========================
ADMISSION EXAM:
==========================
Vitals: T: 97.7 BP: 116/94 P: 124 R: 32 O2: 97% RA 
GENERAL: Alert, oriented, no acute distress    
NECK: supple, EJ distended and elevated to level of jaw at 30 
degrees 
LUNGS: Scant bibasilar crackles and crackles over R mid lung 
CV: Irregularly irregular, tachycardic, no murmurs/rubs/gallops  

ABD: soft, non-tender, non-distended, no rebound tenderness or 
guarding
EXT: 1+ b/l peripheral edema R > L, cool extremities 
NEURO: moving all extremities, CN grossly intact 

==========================
DISCHARGE EXAM:
==========================
VS: 97.3 93/52 82 16 100% on RA
GEN: Alert, oriented to name, place and situation. Fatigued
appearing but comfortable, no acute signs of distress.  
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP
clear, MMM.  
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, non-tender, non-distended, + bowel sounds.  
EXTR: trace leg edema
DERM: No active rash.  
Neuro: non-focal.  
PSYCH: Appropriate and calm. 
 
Pertinent Results:
=====================
ADMISSION LABS:
=====================
___ 05:33PM BLOOD WBC-7.4 RBC-2.65* Hgb-9.4* Hct-29.4* 
MCV-111* MCH-35.5* MCHC-32.0 RDW-17.4* RDWSD-70.7* Plt ___
___ 05:33PM BLOOD Neuts-70.2 ___ Monos-6.1 Eos-0.0* 
Baso-0.1 NRBC-1.0* Im ___ AbsNeut-5.16 AbsLymp-1.71 
AbsMono-0.45 AbsEos-0.00* AbsBaso-0.01
___ 05:30PM BLOOD Glucose-174* UreaN-30* Creat-1.0 Na-134 
K-6.8* Cl-105 HCO3-15* AnGap-21*
___ 10:36PM BLOOD ALT-33 AST-45* CK(CPK)-24* AlkPhos-102 
TotBili-0.2
___ 10:36PM BLOOD Calcium-8.9 Phos-3.6 Mg-2.0
=====================
PERTINENT RESULTS:
=====================
LABS:
=====================
___ 05:30PM BLOOD ___
=====================
IMAGING:
=====================
Bilateral Lower Extremity Dopplers (___):
1. Deep vein thrombosis involving the left common femoral vein, 
deep femoral vein, and popliteal vein. 
2. No evidence of DVT in the right lower extremity. 
===
TTE (___):
The left atrium is moderately dilated. A large (>2cm) minimally 
mobile thrombus (clip 34, 81-83) is seen in the body of the left 
atrium at the entrance of the left atrial appendage. A second, 
very large mural based thrombus (vs wall of the left atrium, 
clips 41-44, 83) is seen at the apex of the left atrium. No 
atrial septal defect is seen by 2D or color Doppler. The 
estimated right atrial pressure is ___ mmHg. Left ventricular 
wall thicknesses and cavity size are normal. There is severe 
global left ventricular hypokinesis (LVEF <20 %). The right 
ventricular cavity is mildly dilated with focal hypokinesis of 
the apical free wall. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis. Trace aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. A mitral valve 
annuloplasty ring is present. The mitral annular ring appears 
well seated with normal gradient. Moderate [2+] tricuspid 
regurgitation is seen. There is mild-moderate pulmonary artery 
systolic hypertension. Significant pulmonic regurgitation is 
seen. The end-diastolic pulmonic regurgitation velocity is 
increased suggesting pulmonary artery diastolic hypertension. 
There is a trivial/physiologic pericardial effusion. 

IMPRESSION: Biatrial enlargement with ?two large thrombi in the 
body of the left atrial thrombi. Right ventricular cavity 
dilation with free wall hypokinesis. Severe global left 
ventricular hypokinesis. Normal functioning mitral annuloplasty 
ring. Mild-moderate pulmonary artery hypertension. 
=====================
DISCHARGE LABS:
=====================
___ 07:30AM BLOOD WBC-4.8 RBC-2.53* Hgb-9.1* Hct-28.1* 
MCV-111* MCH-36.0* MCHC-32.4 RDW-17.4* RDWSD-70.6* Plt ___
___ 07:30AM BLOOD ___ PTT-34.3 ___
___ 07:30AM BLOOD Glucose-88 UreaN-9 Creat-0.3* Na-131* 
K-4.4 Cl-102 HCO3-27 AnGap-6*
___ 07:30AM BLOOD Calcium-8.3* Phos-2.5* Mg-2.___ year old woman with history CAD s/p CABG in ___, systolic 
CHF with LVEF 20%, atrial fibrillation, and MGUS/smoldering 
myeloma, who presented to ___ with dyspnea, 
and was found to have pulmonary embolism and deep venous 
thrombosis. The patient had atrial fibrillation with RVR. 
Cardiology was consulted, and recommended initiating digoxin for 
rate control.

# Pulmonary embolism
# Deep venous thrombosis: She was found to have a pulmonary 
embolism at ___ and was initiated on a heparin gtt and 
transferred to ___. LENIs here showed deep vein thrombosis 
involving the left common femoral vein, deep femoral vein, and 
popliteal vein. TTE was obtained that revealed LVEF 20% and 
biatrial enlargement with two large thrombi in the body of the 
left atrial appendage; right ventricular cavity dilation with 
free wall hypokinesis; severe global left ventricular 
hypokinesis. She was initially managed with heparin which was 
transitioned to enoxaparin as a bridge to warfarin, which she 
was previously on for her atrial fibrillation, but has been off 
since a fall in ___. Her cardiology practice has ___ 
clinic where she has been followed in the past, so we have asked 
her to re-establish care with them, and have asked the ___ to 
fax her INR checks to Dr. ___ (her cardiologist, who 
manages her coumadin), who has been notified by phone. She has 
an appointment with Dr. ___ coming ___.  Her 
INR on discharge was 1.7.

# Atrial fibrillation with RVR: She developed atrial 
fibrillation with RVR while in the ICU and cardiology 
recommended digoxin due to low blood pressure. However, once her 
rate was controlled her BP normalized and digoxin was 
discontinued in favor of uptitrating metoprolol.  Her metoprolol 
was increased to 100 mg daily, which she tolerated.

# Ventricular tachycardia: patient had ___ beat runs of 
asymptomatic VT intermittently.   Cardiology recommended 
uptitration of metoprolol, which was accomplished.  Electrolytes 
were repleted.  She will be discharged on 100 mg metoprolol 
daily.

# CAD s/p CABG and MVR: Cardiologist is Dr. ___, 
___. Patient was continued on aspirin, metoprolol. She 
will follow up with Cardiology after discharge, as noted above.

# Chronic systolic heart failure (EF ___: Not on diuretics 
or ACE-I at home as she had a recent hospitalization where it 
was felt she may have been overdiuresed (wasn't sent home on any 
diuretics).  She was euvolemic (to mildly overloaded) so did not 
start any diuresis while patient was admitted.  She had a cough 
with lisinopril in the past, so was changed to losartan. 
Daughter isn't certain what happened to this medication. We have 
advised her to discuss restarting losartan with Dr. ___ on 
___ if her BP remains above 100 systolic.

# MGUS/myeloma: Patient should followup with PCP and oncologist.

TRANSITIONS OF CARE
-------------------
# Follow-up: Her cardiology practice has ___ clinic where 
she has been followed in the past, so we have asked her to 
re-establish care with them, and have asked the ___ to fax her 
INR checks to Dr. ___ (her cardiologist, who manages 
her coumadin).  She has an appointment with Dr. ___ 
coming ___.  We have advised her to discuss restarting 
losartan with Dr. ___ on ___ if her BP remains above 100 
systolic.  She should follow up with her PCP within one week.  
Enoxaparin should be stopped once INR is > 2.0

# Code status: full code

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Tartrate 12.5 mg PO BID 

 
Discharge Medications:
1. Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth daily Disp 
#*15 Tablet Refills:*0
2. Warfarin 2 mg PO DAILY16 
RX *warfarin 2 mg 1 tablet(s) by mouth daily Disp #*15 Tablet 
Refills:*0
3. Enoxaparin Sodium 50 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
Please stop this medication once INR > 2.0 
RX *enoxaparin [Lovenox] 60 mg/0.6 mL 1 injection SC twice a day 
Disp #*8 Syringe Refills:*0
4. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*15 Tablet 
Refills:*0
5. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*15 Capsule Refills:*0
6. Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tab by mouth daily Disp #*10 
Capsule Refills:*0
7. Outpatient Lab Work
Please check INR on ___ and as needed afterwards to get warfarin 
to correct dosing based on INR

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Pulmonary embolism, submassive
DVT of left common femoral vein, deep femoral vein, and 
popliteal vein
Atrial fibrillation with rapid ventricular response

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___,

___ was a pleasure to care for you during your recent admission 
to ___.

You were found to have a blood clot in your lungs, called a 
pulmonary embolism (PE) and in your leg, called a deep vein 
thrombosis (DVT). We started blood thinning medicine to help 
dissolve the clot, and you are going home back on coumadin. You 
should call your ___ clinic on ___ to re-initiate care 
with them. We have asked your visiting nurse to check your 
coumadin (INR) level on ___ and fax the results to Dr. 
___ office.  You should stay on coumadin 
indefinitely.

You also had an abnormal rhythm called ventricular tachycardia 
intermittently during your admission.  Your beta blocker, 
metoprolol, was increased in dosage to help suppress this 
rhythm.

It is important that you continue to take your medications as 
prescribed and follow up with the appointments listed below.
 
Followup Instructions:
___